US04897490
To a mixture of 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal (71.6 g, 0.22 mole) and triphenylphosphoranylidene acetaldehyde (66.8 g, 0.22 mole) was added 1.1 liters of dry benzene and the suspension was heated to reflux temperature over a period of 30 minutes. The reaction was allowed to proceed at reflux temperature for 2 hours. Analytical TLC eluted five times with 30% (v/v) ethyl acetate in hexanes showed only one major spot at Rf =0.37 for the desired product. The crude hot reaction mixture was diluted with an equal volume of hexane and the warm mixture was quickly filtered through a bed of activated charcoal. The filtrate was allowed to stand at room temperature from which 58.12 g (75.2%) of the desired product was collected. A second crystallization from the filtrate yielded mostly triphenylphosphine oxide. Concentration of the filtrate yielded an additional amount of the desired product to give a total of 71 g (91.8%) of the title compound. The combined material was recrystallized from ethyl acetate-hexane to give pure title compound; m.p.=164°-165° C. A 1H NMR of the recrystallized material showed no detectable double homologated product.

reactant | 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 0.22 mole, 71.6 g | FC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H12F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 0.22 mole, 66.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | benzene | 1.1 liters | C1=CC=CC=C1 | C6H6
product | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
